US04822787
A solution of (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[(2-ureidoethyl)oxymethyl]pyrrolidine (1.37 g) in dimethylformamide (3 ml) was added to a reaction mixture of thioacetic S-acid (0.32 ml) and sodium hydride (62.8% in oil suspension) (0.14 g) in dimethylformamide (7 ml) in a nitrogen stream, and the mixture was heated at 70°-75° C. for 5 hours. The reaction mixture was poured into ice-water (100 ml), extracted with ethyl, acetate (50 ml×2), dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (2:98 V/V) to give (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-[(2-ureidoethyl)oxymethyl]pyrrolidine (1.02 g).

reactant | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-[(2-ureidoethyl)oxymethyl]pyrrolidine | 1.37 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCCNC(=O)N | C17H24N4O9S
reactant | thioacetic S-acid | 0.32 ml | C(C)(=O)S | C2H4OS
reactant | sodium hydride | 0.14 g | [H-].[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-4-acetylthio-1-(4-nitrobenzyloxycarbonyl)-2-[(2-ureidoethyl)oxymethyl]pyrrolidine | 1.02 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCCNC(=O)N | C18H24N4O7S
